US08754226B2
To a solution of (S)-methyl 3-fluoro-4-(2-oxo-1-(piperidin-4-yl)pyrrolidin-3-yloxy)benzoate hydrochloride (0.1 g, 0.29 mmol) in DMF (10 mL) was added N-ethyl-N-isopropylpropan-2-amine (0.543 mL, 2.97 mmol) and 2,3-dichloro-5-(trifluoromethyl)pyridine (0.193 g, 0.892 mmol) and the reaction was stirred overnight at ambient temperature. The reaction was diluted with EtOAc (50 mL) and washed with water (20 mL), and brine (20 mL), dried over MgSO4, filtered and concentrated under vacuum. The material was purified on silica, using a gradient of DCM to 10% EtOAc/DCM as eluent to yield (S)-methyl 4-(1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)-3-fluorobenzoate (0.10 g, 63% yield).

reactant | (S)-methyl 3-fluoro-4-(2-oxo-1-(piperidin-4-yl)pyrrolidin-3-yloxy)benzoate hydrochloride | 0.29 mmol, 0.1 g | Cl.FC=1C=C(C(=O)OC)C=CC1O[C@@H]1C(N(CC1)C1CCNCC1)=O
reactant | N-ethyl-N-isopropylpropan-2-amine | 2.97 mmol, 0.543 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2,3-dichloro-5-(trifluoromethyl)pyridine | 0.892 mmol, 0.193 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (S)-methyl 4-(1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)-3-fluorobenzoate | 0.10 g, 63% yield | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCC(CC1)N1C([C@H](CC1)OC1=C(C=C(C(=O)OC)C=C1)F)=O | C23H22ClF4N3O4
